US08119673B2
To a solution of ethyl (2R)-4-bromo-2-hydroxybutanoate (1.1 g, 5.2 mmol, prepared as described in J. Med. Chem. 2003, 46, 2057 or J. Am. Chem. Soc., 2004, 126, 12432 and Tetrahedron Letters 1997, 38, 4935-4938, in dry DCM (20 mL) at 0° C. was added Tf2O (1.62 g, 5.7 mmol) via syringe. After 5 min, 2,6-lutidine (0.67 g, 6.2 mmol) was added. After another 5 min, t-butylcarbazate (1.38 g, 10.4 mmol) in DCM (5 mL) was added. The solution was allowed to attain rt and stirred overnight. The solvent was evaporated and the residue was purified using flash chromatography (heptane/EtOAc 4:1, 3:1, 2:1) to give the slightly impure tert-butyl 2-[(1S)-3-bromo-1-(ethoxycarbonyl)propyl]hydrazinecarboxylate (1.65 g, 97%) as an oil.

reactant | ethyl (2R)-4-bromo-2-hydroxybutanoate | BrCC[C@H](C(=O)OCC)O | C6H11BrO3
reactant | Tf2O | 5.7 mmol, 1.62 g | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2,6-lutidine | 6.2 mmol, 0.67 g | N1=C(C=CC=C1C)C | C7H9N
reactant | t-butylcarbazate | 10.4 mmol, 1.38 g | C(C)(C)(C)OC(NN)=O | C5H12N2O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-[(1S)-3-bromo-1-(ethoxycarbonyl)propyl]hydrazinecarboxylate | 1.65 g, 97% | BrCC[C@@H](C(=O)OCC)NNC(=O)OC(C)(C)C | C11H21BrN2O4
